US06262058B1
3-Butyl-2-thioxo-2,3-dihydro-1H-thieno[2.3-d]pyrimidin-4-one
In a sulfonation flask, 0.2 g (0.0049 mol) of a ca. 60% sodium hydride dispersion is added to 20 ml absolute tetrahydrofurane. Then 1.29 g (0.0047 mol) of methyl 2-(3-butylthioureido)thiophene-3-carboxylate, dissolved in 10 ml absolute tetrahydrofurane are added dropwise, such that the internal temperature remains constant at about 25° C. The mixture is stirred at reflux temperature for 3 hours and then the solvent is removed in a water-jet vacuum and the residue taken up in ethylacetate/water. After addition of acetic acid the mixture is extracted three times with ethylacetate and the organic phase dried over sodium sulfate. After removal of the solvent in a water-jet vacuum, 1.06 g of 3-butyl-2-thioxo-2,3-dihydro-1H-thieno[2.3-d]pyrimidin-4-one are obtained in the form of a brown powder having a melting point of 200-203° C.

reactant | sodium hydride | [H-].[Na+]
reactant | methyl 2-(3-butylthioureido)thiophene-3-carboxylate | 0.0047 mol, 1.29 g | C(CCC)NC(NC=1SC=CC1C(=O)OC)=S | C11H16N2O2S2
solvent | tetrahydrofurane | 10 ml | O1CCCC1 | C4H8O
solvent | tetrahydrofurane | 20 ml | O1CCCC1 | C4H8O
product | 3-Butyl-2-thioxo-2,3-dihydro-1H-thieno[2.3-d]pyrimidin-4-one | C(CCC)N1C(NC2=C(C1=O)C=CS2)=S | C10H12N2OS2
